US08455638B2
Step A. Ethyl-1-(6-chloropyridin-2-yl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate
To a solution 2-chloro-6-hydrazinopyridine (1.00 g, 6.97 mmol) and triethylamine (0.971 mL, 6.97 mmol) in acetonitrile (35 mL) was added ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutyrate (1.36 mL, 6.97 mmol). After 20 min, the reaction mixture was placed in a 60° C. oil bath. After 30 min, the reaction mixture was allowed to cool to ambient temperature, then was concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 30% EtOAc in hexanes, then 30 to 100% EtOAc in hexanes) gave the title compound: LCMS m/z 319.9 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.10 (s, 1H), 7.88 (t, J=7.5 Hz, 1H), 7.58 (d, J=8.0 Hz, 1H), 7.47 (d, J=8.0 Hz, 1H), 4.38 (q, J=7.0 Hz, 2H), 1.38 (t, J=7.0 Hz, 3H).

reactant | 2-chloro-6-hydrazinopyridine | 6.97 mmol, 1.00 g | ClC1=NC(=CC=C1)NN | C5H6ClN3
reactant | triethylamine | 6.97 mmol, 0.971 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutyrate | 6.97 mmol, 1.36 mL | C(C)OC=C(C(=O)OCC)C(C(F)(F)F)=O | C9H11F3O4
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | Ethyl-1-(6-chloropyridin-2-yl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)C1=NC(=CC=C1)Cl | C12H9ClF3N3O2
